US09227970B2
d) 5-(2-Dimethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester
Using N*2*,N*2*-dimethyl-[1,2,4]triazolo[1,5-a]pyridine-2,6-diamine, this compound was prepared following the same method as for the synthesis of 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid ethyl ester. White solid (64 mg, 48%). Mp.: 194° C. MS: m/z=358 (M+H+).

reactant | N*2*,N*2*-dimethyl-[1,2,4]triazolo[1,5-a]pyridine-2,6-diamine | CN(C1=NN2C(C=CC(=C2)N)=N1)C | C8H11N5
reactant | 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O)C | C18H21N7O4
product | 5-(2-Dimethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1C(NC=1C=CC=2N(C1)N=C(N2)N(C)C)=O)C | C16H19N7O3
